US05001294
Di-(2-propenylphenoxy) methane
The preparation of 2-propenylphenol from phenol and allyl bromide is similar to that outlined1. The reaction of this compound with dibromomethane is similar to that described above for di (N-phenylcarboxaldimine-4-phenoxy)methane. The title compound was extracted with ether 3×100 ml portions from the aqueous dimethylformamide solution, washed with aqueous potassium hydroxide (10%) and then water. The ether phase was dried over sodium sulphate and the solvent was stripped off under reduced pressure. The oil which contained some (~5%) of a less polar component and at least two isomeric forms of the title compound, as indicated from high pressure liquid chromatography, was used without further purification in the reaction below.

reactant | 2-propenylphenol | C(=CC)C1=C(C=CC=C1)O | C9H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | dibromomethane | BrCBr | CH2Br2
product | Di-(2-propenylphenoxy) methane | C(=CC)C1=C(OCOC2=C(C=CC=C2)C=CC)C=CC=C1 | C19H20O2
